US07034052B2
To a solution of (1R)-cyclopropanecarboxylic acid {2-[3-amino-1-(3-ethoxy-4-methoxy-phenyl)-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (0.45 g, 1.1 mmol) and triethylamine (0.3 mL, 2 mmol) in methylene chloride (10 mL) was added methane sulfonyl chloride (0.10 mL, 1.3 mmol) at 0° C. After 3 hrs, the mixture was extracted with methylene chloride (20 mL) and water (20 mL). The organic layer was washed with HCl (1N, 20 mL), sodium hydrogen carbonate (sat 20 mL), brine (20 mL), and dried over MgSO4. The solvent was removed in vacuo to give a solid, which was purified with chromatography (Silca Gel) to give (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-3-methanesulfonylamino-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a white solid (320 mg, 58% yield): mp, 93–95° C.; 1H NMR (CDCl3) δ 0.89–0.93 (m, 2H, CH2), 1.08–1.10 (m, 2H, CH2), 1.42 (t, J=7 Hz, 3H, CH3), 1.65–1.72 (m, 1H, CH), 2.27–2.32 (m, 2H, CH2), 2.94 (s, 3H, CH3), 2.97–3.06 (m, 1H, CHH), 3.85 (s, 3H, CH3), 3.50 (d, J=17 Hz, 1H, NCHH), 4.04 (q, J=7 Hz, 2H, CH2), 4.18 (d, J=17 Hz, 1H, NCHH), 5.51 (dd, J=6, 9 Hz, 1H, NCH), 5.60–5.62 (m, 1H, NH), 6.81–6.99 (m, 4H, Ar), 7.42 (t, J=8 Hz, 1H, Ar), 8.42 (d, J=8 Hz, 1H, Ar), 10.47 (s, 1H, NH); 13C NMR (CDCl3) δ 8.35, 14.76, 16.19, 32.26, 40.24, 40.65, 46.05, 51.12, 55.98,64.63, 111.50, 112.83, 116.86, 116.94, 117.84, 119.64, 130.31, 133.43, 138.02, 141.44, 148.72, 149.41, 170.07, 172.72; Anal Calcd for C25H31N3O6S+0.35 H2O: C, 59.12; H, 6.29; N, 8.27, H2O 1.26. Found: C, 59.42; H, 6.16; N, 8.05, H2O 1.24.

reactant | (1R)-cyclopropanecarboxylic acid {2-[3-amino-1-(3-ethoxy-4-methoxy-phenyl)-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 1.1 mmol, 0.45 g | NCC[C@H](C1=CC(=C(C=C1)OC)OCC)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C24H29N3O4
reactant | triethylamine | 2 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 1.3 mmol, 0.10 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-3-methanesulfonylamino-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 320 mg, 58% yield | C(C)OC=1C=C(C=CC1OC)[C@@H](CCNS(=O)(=O)C)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C25H31N3O6S
